US07314888B1
In a mixture of 3.5 ml of ethanol and 1.5 ml of water are dissolved 1.0 g of 4-(3-methylbutylidene)-1-cyclohexanone, 1.1 g of D-cysteine hydrochloride monohydrate and 0.52 g of sodium acetate. The resulting solution is stirred at ambient temperature for 2 hours. Water is added to the reaction mixture and the deposited crystal is collected by filtration. Thus, 0.81 g of (3S)-8-(3-methylbutylidene)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid is obtained as a colorless crystalline product.

reactant | 4-(3-methylbutylidene)-1-cyclohexanone | 1.0 g | CC(CC=C1CCC(CC1)=O)C | C11H18O
reactant | D-cysteine hydrochloride monohydrate | 1.1 g | O.Cl.N[C@H](CS)C(=O)O
reactant | sodium acetate | 0.52 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
product | (3S)-8-(3-methylbutylidene)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.81 g | CC(CC=C1CCC2(N[C@H](CS2)C(=O)O)CC1)C | C14H23NO2S
